US05407936
4-Chloro-N-isopropyl-2-nitroaniline (8 g) was dissolved in ethanol (20 ml) and thereto zinc powder (9.8 g) was added, and concentrated hydrochloric acid (20 ml) was added in portions. The mixture was neutralized with aqueous ammonia and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was distilled (bp 90° C./0.4 mmHg) to give 2-amino-4-chloro-N-isopropylaniline (4.2 g).

reactant | 4-Chloro-N-isopropyl-2-nitroaniline | 8 g | ClC1=CC(=C(NC(C)C)C=C1)[N+](=O)[O-] | C9H11ClN2O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | zinc | 9.8 g | [Zn] | Zn
product | 2-amino-4-chloro-N-isopropylaniline | 4.2 g | NC1=C(NC(C)C)C=CC(=C1)Cl | C9H13ClN2
